US09029374B2
2,5-difluoroaniline (0.074 mL, 0.73 mmol) was reacted with 8-(1-bromoethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide hydrobromide (0.09 g, 0.18 mmol) using an analogous procedure to the one described in Example 3.03 to give 8-(1-(2,5-difluorophenylamino)ethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide (0.055 g, 66%) as a white solid. Mass Spectrum: M+H+ 458. NMR Spectrum (DMSOd6): 1.57 (d, 3H), 2.72 (bs, 3H), 2.94 (bs, 3H), 3.51-3.64 (m, 4H), 3.71-3.78 (m, 4H), 5.02-5.11 (m, 1H), 5.61 (s, 1H), 6.19-1.33 (m, 2H), 6.43 (d, 1H), 7.01-7.09 (m, 1H), 7.60 (d, 1H), 7.79 (d, 1H).

reactant | 2,5-difluoroaniline | 0.73 mmol, 0.074 mL | FC1=C(N)C=C(C=C1)F | C6H5F2N
reactant | 8-(1-bromoethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide hydrobromide | 0.18 mmol, 0.09 g | Br.BrC(C)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)N(C)C
product | 8-(1-(2,5-difluorophenylamino)ethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide | 0.055 g, 66% | FC1=C(C=C(C=C1)F)NC(C)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)N(C)C | C24H25F2N3O4
